US07390910B2
3,3-dimethyl-3-phenyl propionic acid
Following a literature procedure, (Leffler, J. E.; Barbas, J. T. JACS. 1981, 103(26), 7768-7773), to a mixture of magnesium turnings (9.5 g) and neophyl chloride (7.5 mL) in tetrahydrofuran (100 mL) is added a spatula tip of iodine and 1,2-dibromoethane (1 mL). The mixture is heated gently with under a heat gun to initiate a vigorous reaction. A solution of neophyl chloride (57 mL) in tetrahydrofuran (360 mL) is added dropwise over the course of 90 minutes. Following completion of the addition, the reaction mixture is stirred for an additional five hours, then solid carbon dioxide (25 g) is added to the flask. After 10 minutes, the flask is transferred to a 40° C. water bath until all carbon dioxide had sublimed. The solvent is then removed under reduced pressure to afford the title compound (58 g, 81%) as a white paste. MS (ES+): (M+H)=178.8

reactant | magnesium | 9.5 g | [Mg] | Mg
reactant | neophyl chloride | 7.5 mL | C(C(C)(C)C1=CC=CC=C1)Cl | C10H13Cl
reactant | iodine | II | I2
reactant | 1,2-dibromoethane | 1 mL | BrCCBr | C2H4Br2
reactant | neophyl chloride | 57 mL | C(C(C)(C)C1=CC=CC=C1)Cl | C10H13Cl
reactant | carbon dioxide | 25 g | C(=O)=O | CO2
solvent | tetrahydrofuran | 100 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 360 mL | O1CCCC1 | C4H8O
product | 3,3-dimethyl-3-phenyl propionic acid | 58 g, 81% | CC(CC(=O)O)(C1=CC=CC=C1)C | C11H14O2
